US07342026B2
[Quinoline of General Formula (I) in which R1=—CH═CH2 and R2=H]
0.8 g (5.51 mmol) of quinoline N-oxide is dissolved in 15 ml of anhydrous THF at 20° C., in a dry round-bottomed flask equipped with a magnetic stirrer and a nitrogen inlet. This solution is treated with 0.78 ml (6.07 mmol) of isobutyl chloroformate; the suspension obtained is cooled to −78° C. 11 ml (11 mmol) of a 1M solution of vinylmagnesium bromide in THF are then added dropwise. After stirring for 90 minutes at −78° C., the solution is slowly returned to ambient temperature (30 minutes), and then hydrolyzed with 15 ml of water.

reactant | quinoline N-oxide | 5.51 mmol, 0.8 g | [N+]1(=CC=CC2=CC=CC=C12)[O-] | C9H7NO
reactant | isobutyl chloroformate | 6.07 mmol, 0.78 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | water | 15 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
